US07863368B2
(i) Synthesis of 1-ethyl-3-tert-butylcyclopentadiene
A 300-ml three-necked flask equipped with a magnetic stirrer and a three-way cock in a nitrogen atmosphere was charged with 200 ml of dehydrated diethyl ether and 52 ml of a 3.0 M diethyl ether solution of ethylmagnesium bromide (154 mmol). In an ice water bath, 17.8 g (129 mmol) of 3-tert-butylcyclopentenone was added dropwise to the flack over a period of 1 hour. The mixture was stirred at room temperature for 20 hours, and the resultant reaction solution was poured into 100 ml of 2N hydrochloric acid. The organic phase was separated, and the aqueous phase was extracted with 50 ml of ether two times. The organic phases were combined and washed two times with a saturated aqueous sodium hydrogencarbonate solution, two times with water, and two times with a saturated salt solution. The product was dried over magnesium sulfate and the solvent was distilled off. The distillate was purified by column chromatography to give 20.2 g of a light yellow transparent liquid (GC purity: 75%). The yield was 78%. The compound was identified by 1H-NMR spectroscopy. The results are as follows.

reactant | ethylmagnesium bromide | 154 mmol | C(C)[Mg]Br
reactant | 3-tert-butylcyclopentenone | 129 mmol, 17.8 g | C(C)(C)(C)C1=CC(CC1)=O | C9H14O
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | diethyl ether | 3.0 M | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-ethyl-3-tert-butylcyclopentadiene | 20.2 g, yield was 78% | C(C)C1=CC(=CC1)C(C)(C)C | C11H18
